* D:\Repository\mech_421\report\lab_3\LTSpice_circuit\4_instrumentation_amplifier.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N008 N005 N003 0 N006 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U2 N012 N013 N003 0 N014 LT1001 ;§pnba In+)In-)V+)V-)OUT
X§U4 N016 2.5V_Reference N003 0 2.5V_Reference LT1001 ;§pnba In+)In-)V+)V-)OUT
R1 N007 N006 10k
R2 N009 N007 100k
R3 N006 N005 100k
R4 N013 N005 10k
R5 N013 N014 100k
R6 N014 N011 10k
R7 N011 2.5V_Reference 100k
R8 N015 N016 10k
R9 N016 0 10k
C1 N016 0 0.1e-6
V§5V_2 N015 0 5
V§5V_1 N003 0 5
X§U5 NC_01 NC_02 NC_03 NC_04 NC_05 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U6 N011 N007 N003 0 N009 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V1 N004 0 5
R10 N004 V- 9.9964k
R11 V- 0 9.9932k
C2 V- 0 0.1µ
R12 N004 V+ 9.9762k
R13 V+ 0 9.9851k
C3 V+ 0 0.1µ
X§U3 N010 N001 N003 0 N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
R15 N010 N003 20k
C4 N002 N001 100n
R16 N010 0 11.3k
R17 N002 N001 50k
V2 N012 N008 4.761905e-4
R14 N001 N009 30k
V3 V_out2 0 0.4802982
.tran 10
.lib LTC.lib
.lib UniversalOpAmp1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
